US09422292B2
A mixture of methyl 3-aminopropanoate hydrochloride (15 g, 0.107 mol), 1-fluoro-2-nitrobenzene (14.9 g, 0.107 mol) and K2CO3 (36.6 g, 0.265 mol) in THF (50 mL) was heated at 90° C. and stirred overnight. After cooled to room temperature, water (20 mL) and ethyl acetate (40 mL) were added, and the separated organic layer was dried over Na2SO4, concentrated, and the resulting residue was purified by CombiFlash (PE:EA=4:1) to give methyl 3-((2-nitrophenyl)amino)propanoate (21.4 g, 90%). 1H NMR (300 MHz, CD3OD): δ 2.72 (t, J=6.6 Hz, 2H), 3.64-3.69 (m, 5H), 6.64-6.70 (m, 1H), 7.01-7.04 (m, 1H), 7.46-7.52 (m, 1H), 8.09-8.13 (m, 1H).

reactant | methyl 3-aminopropanoate hydrochloride | 0.107 mol, 15 g | Cl.NCCC(=O)OC
reactant | 1-fluoro-2-nitrobenzene | 0.107 mol, 14.9 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | K2CO3 | 0.265 mol, 36.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 20 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-((2-nitrophenyl)amino)propanoate | 21.4 g, 90% | [N+](=O)([O-])C1=C(C=CC=C1)NCCC(=O)OC | C10H12N2O4
